US07989444B2
Preparation 24: 2-Cyclopropyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 2 from 1,1-dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 9, 2.16 mmol) and cyclopropanecarbonyl chloride (2.4 mmol) to give the title compound (1.75 mmol) as a white solid.

reactant | 1,1-dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 2.16 mmol | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1O | C15H22N2O3
reactant | cyclopropanecarbonyl chloride | 2.4 mmol | C1(CC1)C(=O)Cl | C4H5ClO
product | 2-Cyclopropyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | 1.75 mmol | Cl.C1(CC1)C=1OC2=CC3=C(CCNCC3)C=C2N1 | InChI=1S/C14H16N2O.ClH/c1-2-9(1)14-16-12-7-10-3-5-15-6-4-11(10)8-13(12)17-14;/h7-9,15H,1-6H2;1H
